US03947456
The free base prepared from 5.20 g. of rac.-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydro-7-methoxyisoquinoline hydrochloride is stirred at room temperature with 75 ml. of methanol and 3.8 ml. of 35% formaldehyde solution for 2 hours and thereupon hydrogenated over 2 g. of Raney nickel. After filtering off, evaporation, acidification with ethanolic hydrogen chloride, crystallization and recrystallization from methanol-ether, there is obtained rac.-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydro-7-methoxy-2-methylisoquinoline hydrochloride, m.p. 273°-275°.

reactant | rac.-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydro-7-methoxyisoquinoline hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1CNCC2=CC(=CC=C12)OC
reactant | formaldehyde | C=O | CH2O
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | rac.-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydro-7-methoxy-2-methylisoquinoline hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=CC=C12)OC)C | InChI=1S/C17H17Cl2NO.ClH/c1-20-9-12-7-13(21-2)4-5-14(12)15(10-20)11-3-6-16(18)17(19)8-11;/h3-8,15H,9-10H2,1-2H3;1H
